US08420634B2
2-Amino-6-trifluoromethoxy-4H-3,1-benzothiazine
Concentrated HCl (4 ml) is added slowly to a solution of N-[2-hydroxymethyl-4-(trifluoromethoxy)phenyl]-pivaloylamide (0.35 g, 1.2 mmol) in dioxane (3 ml) and the resulting reaction mixture heated at 80° C. for 4 hours, then diluted with isopropanol (20 ml), and thiourea (0.14 g, 1.8 mmol) added and the mixture refluxed for 20 hours. The solvent is then evaporated under vacuum and the residue diluted with H2O, basified with 2 N NaOH, and extracted with CH2Cl2. The combined organic extracts are dried over Na2SO4 and concentrated under vacuum. The residue is purified by chromatography through silica, eluting with AcOEt/petroleum ether (1:1). The product is obtained as a yellow solid, with a yield of 84%. Recrystallisation from EtOH gives a solid with m.p. 115-118° C. 1H-NMR (CDCl3): 3.87 (s, 2H), 5.16 (br s, 2H), 6.97-7.11 (m, 3H). MS (ESI): m/z 249 (M+H+).

reactant | HCl | 4 ml | Cl | ClH
reactant | N-[2-hydroxymethyl-4-(trifluoromethoxy)phenyl]-pivaloylamide | 1.2 mmol, 0.35 g | OCC1=C(C=CC(=C1)OC(F)(F)F)[N-]C(C(C)(C)C)=O
reactant | thiourea | 1.8 mmol, 0.14 g | NC(=S)N | CH4N2S
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | 2-Amino-6-trifluoromethoxy-4H-3,1-benzothiazine | yield of 84% | NC1=NC2=C(CS1)C=C(C=C2)OC(F)(F)F | C9H7F3N2OS
